US07691879B2
Step B: 2-Allyl-3-cyano-4-(3-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-6-yl trifluoromethansulfonate
Diisopropylethylamine (6.3 mL, 36.2 mmol) was added to a solution of 2-Allyl-4-(3-fluorophenyl)-6-hydroxy-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile (5.7 g, 17.8 mmol) in anhydrous DCM (100 mL) under Nitrogen. The reaction mixture was chilled to −78° C. with a dry ice/IPA bath. Triflic anhydride (6.1 mL, 36.2 mmol) was added and the resulting brown solution was stirred for 1 h at −78° C. The reaction was warmed to room temperature and diluted with DCM (100 mL). This was washed with sat'd NaHCO3, dried (MgSO4), filtered and concentrated. The residue was purified by flash chromatography (1:4 EtOAc/hexanes) to afford the title compound as beige crystals.

reactant | Diisopropylethylamine | 36.2 mmol, 6.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Allyl-4-(3-fluorophenyl)-6-hydroxy-1-oxo-1,2-dihydroisoquinoline-3-carbonitrile | 17.8 mmol, 5.7 g | C(C=C)N1C(C2=CC=C(C=C2C(=C1C#N)C1=CC(=CC=C1)F)O)=O | C19H13FN2O2
reactant | Triflic anhydride | 36.2 mmol, 6.1 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Allyl-3-cyano-4-(3-fluorophenyl)-1-oxo-1,2-dihydroisoquinolin-6-yl trifluoromethansulfonate | FC(S(=O)(=O)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC=C)C#N)C1=CC(=CC=C1)F)(F)F | C20H12F4N2O4S
